US08084483B2
Sodium nitrite (30 mL) was slowly added (over 2 hours) to 1-cyclopropylnaphthalene (6.4 g, 38 mmol) stirred at 0° C. The reaction mixture was stirred at 0° C. for an extra 30 min and then slowly poured into ice. Water was added, followed by ethyl acetate. After extraction, the organic layer was washed with aqueous sodium hydroxide (1%) and water, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography to yield 1-cyclopropyl-4-nitronaphthalene (5.2 g, 64%).

reactant | Sodium nitrite | 30 mL | N(=O)[O-].[Na+]
reactant | 1-cyclopropylnaphthalene | 38 mmol, 6.4 g | C1(CC1)C1=CC=CC2=CC=CC=C12 | C13H12
reactant | Water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-cyclopropyl-4-nitronaphthalene | 5.2 g, 64% | C1(CC1)C1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C13H11NO2
